Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:4](=[C:3]([H:11])[H:12])[O:5][H:13])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10],45.18128482489801
[C:1]([C:4]([C:3]([O:2][H:7])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],97.08769924560195
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[O:1]([C:3]([C@:4]([C:2][H:7])([O:5][H:11])[H:10])([H:8])[H:9])[H:6],86.74366490163129
[C:1](=[O:2])([H:6])[H:8].[C:3](=[O:4])=[N:5][H:10].[H:7][H:9]>>[C:1]([O:2][C:3](=[O:4])[N:5]([H:9])[H:10])([H:6])([H:7])[H:8],33.9765537170089
[C:1]([C:2]#[N:3])([H:7])([H:8])[H:9].[N:4](=[C:5](\[O:6][H:10])[H:12])\[H:11]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],23.642312979665686
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:12])[C:3]([H:11])=[C:4]1[O:5][H:13])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:15],90.44695526146059
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:14])[O:4][C@@:5]12[O:6][N:7]2[H:13])([H:8])([H:9])[H:10],119.485713230825
[C+:3](=[C:4]=[C-:5][C:6]([H:14])([H:15])[H:16])[H:12].[C:1]([C:2]([H:10])([H:11])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]#[C:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],1.849685107517601
[O:1]=[C:2]([C:3]([C:4]([C:6](=[C:5])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],12.747012903958392
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:5]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:9])[H:10])=[N:6]1,106.970766612008
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C-:2]=[C:3]([H:10])[C+:4]2[N:5]([H:12])[C@@:6]12[H:13].[H:9][H:11],144.563713593795
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C-:3]=[C:4]([C:5]([C:6]#[O+:7])([H:11])[H:12])[H:13])([H:9])[H:10])[H:8],57.0319062750174
[C:1](=[C:2]([H:9])[H:10])([C@:3]1([H:8])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:7]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,81.84062353343396
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:5]#[C:6][C+:7]([H:13])[H:15].[C:1]([C:2]([C:3](=[O:4])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],97.1037351465629
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([H:10])=[C:3]([H:11])[C:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16],113.92525922192499
[C:1]([N:2]([C:3](=[O:4])[H:17])[H:11])([H:8])([H:9])[H:10].[N:5]([C:6]([H:12])([H:13])[H:14])=[C:7]([H:15])[H:16]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],67.945599314276
[O:1]=[c:2]1[c:5]([C:4](=[C:3])[H:7])[c:6]1[H:8]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[C:6][H:8],34.07409252406759
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[O:5][H:15])([H:6])([H:7])[H:8]>>[C:1]([C:2][C:4]([H:12])([H:13])[H:14])([H:6])([H:7])[H:8].[C:3]([O:5][H:15])([H:9])([H:10])[H:11],111.859363047694
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C@:3]([H:11])([C:4]1([H:13])[H:14])[C@:6]([O:7][H:12])([H:15])[O:5]2)([H:8])([H:9])[H:10],102.689756694053
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:7]1([C:6](=[C:5])[H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],6.543252482244881
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[H:8][H:11].[O:1]=[C:2]([C@@:3]1([H:9])[C@:4]2([H:12])[C:5]([H:13])([H:14])[C@@:6]1([H:15])[O:7]2)[H:10],79.2693727731964
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:5][H:13])[C:3]([H:11])([H:12])[C@@:4]12[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],75.43438529868729
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:4]/[C:3](=[C:2](/[C:5]#[C:6][H:12])[H:10])[H:11])([H:7])([H:8])[H:9],69.491552329904
[O:1]([C@:2]1([C:5](=[O:6])[H:10])[C:3]([H:8])([H:9])[O:4]1)[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],33.29565323704939
